US04855086
N-isobutyl-4-(3phenyl-2-propynoxy)-(2E)-butenamide was prepared from 2-(3-phenyl-2-propynoxy) ethanal and N-isobutyl acetamidotriphenylphosphonium chloride as in Example 9.

reactant | 2-(3-phenyl-2-propynoxy) ethanal | C1(=CC=CC=C1)C#CCOCC=O | C11H10O2
reactant | N-isobutyl acetamidotriphenylphosphonium chloride | [Cl-].C(C(C)C)N(C(C)=O)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N-isobutyl-4-(3phenyl-2-propynoxy)-(2E)-butenamide | C(C(C)C)NC(\C=C\COCC#CC1=CC=CC=C1)=O | C17H21NO2
